US08664387B2
To a solution of (2-methylpyridin-4-yl)-methanol (0.510 g, 4.14 mmol) in 8 mL of dichloromethane was added thionyl bromide (1.03 g, 4.97 mmol) dropwise. After 1 h, the reaction was quenched with saturated aqueous ammonium chloride. The organic solution was washed 2× with water, dried over sodium sulfate, filtered, and concentrated in vacuo to provide 4-(bromomethyl)-2-methylpyridine that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 188.0 (81Br) for [M+H]+.

reactant | (2-methylpyridin-4-yl)-methanol | 4.14 mmol, 0.510 g | CC1=NC=CC(=C1)CO | C7H9NO
reactant | thionyl bromide | 4.97 mmol, 1.03 g | S(=O)(Br)Br | Br2OS
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4-(bromomethyl)-2-methylpyridine | BrCC1=CC(=NC=C1)C | C7H8BrN
